US09120777B2
A) 2,2′,3,4′-Tetrafluorobiphenyl-4-carbaldehyde
(2,4-Difluorophenyl)boronic acid (5.39 g), a 2 M aqueous sodium carbonate solution (34.1 mL), tris(dibenzylideneacetone)dipalladium(0) (1.46 g), and dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (1.40 g) were added at room temperature to a toluene (150 mL) solution of 4-bromo-2,3-difluorobenzaldehyde (5.03 g), and the mixture was stirred at 100 C for 16 hours in a nitrogen atmosphere. Water was added to the reaction mixture at room temperature, and the mixture was filtered through celite. Then, the filtrate was subjected to extraction with ethyl acetate. The organic layer was separated, washed with water and saturated saline in this order, and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (5.49 g).

reactant | (2,4-Difluorophenyl)boronic acid | 5.39 g | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 2 M, 34.1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 1.40 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | 4-bromo-2,3-difluorobenzaldehyde | 5.03 g | BrC1=C(C(=C(C=O)C=C1)F)F | C7H3BrF2O
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 1.46 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | toluene | 150 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2′,3,4′-Tetrafluorobiphenyl-4-carbaldehyde | 5.49 g | FC1=C(C=CC(=C1F)C=O)C1=C(C=C(C=C1)F)F | C13H6F4O
